US20010014691A1
2-Chloro-1-(3-pyridyloxy)ethane
Under a nitrogen atmosphere, a solution of 3-hydroxypyridine (12.00 g, 126.18 mmol) in N, N-dimethylformamide (DMF) (63 mL) was added drop-wise over 25 min to a cold (0-5° C.), stirring slurry of sodium hydride (6.17 g of an 80% dispersion in mineral oil, 205.7 mmol) in DMF (130 mL). The mixture was allowed to stir and warm to ambient temperature over 1 h. Next, 1-bromo-2-chloroethane (21.71 g, 151.37 mmol) was added drop-wise over 45 min. The resulting dark-brown mixture was stirred at ambient temperature for 24 h. Gas chromatographic analysis indicated an incomplete reaction; therefore, more 1-bromo-2-chloroethane (8.65 g, 60.3 mmol) and sodium hydride (2.09 g of an 80% dispersion in mineral oil, 69.7 mmol) were added. The mixture was stirred at ambient temperature for 40 h. Water (60 mL) was carefully added over 30 min, followed by saturated NaCl solution (40 mL), and the mixture was extracted with ether (6×50 mL). The combined orange-yellow ether extracts were washed with saturated NaCl solution (75 mL). The ether layer was dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 2.87 g (14.4%) of a light-brown oil.

reactant | 3-hydroxypyridine | 126.18 mmol, 12.00 g | OC=1C=NC=CC1 | C5H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromo-2-chloroethane | 151.37 mmol, 21.71 g | BrCCCl | C2H4BrCl
reactant | 1-bromo-2-chloroethane | 60.3 mmol, 8.65 g | BrCCCl | C2H4BrCl
reactant | NaCl | 40 mL | [Na+].[Cl-]
solvent | N, N-dimethylformamide | 63 mL | CN(C=O)C | C3H7NO
solvent | DMF | 130 mL | CN(C=O)C | C3H7NO
solvent | Water | 60 mL | O | H2O
product | 2-Chloro-1-(3-pyridyloxy)ethane | 2.87 g, 14.4% | ClCCOC=1C=NC=CC1 | C7H8ClNO
